* Subcircuit 74HC58
.subckt 74HC58 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ 
* e:\fossee\esim\library\subcircuitlibrary\74hc58\74hc58.cir
* u2  net-_u1-pad3_ net-_u16-pad1_ d_inverter
* u3  net-_u1-pad4_ net-_u16-pad2_ d_inverter
* u4  net-_u1-pad5_ net-_u17-pad2_ d_inverter
* u5  net-_u1-pad6_ net-_u10-pad1_ d_inverter
* u6  net-_u1-pad7_ net-_u10-pad2_ d_inverter
* u7  net-_u1-pad8_ net-_u18-pad2_ d_inverter
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_nor
* u14  net-_u12-pad3_ net-_u1-pad11_ d_inverter
* u8  net-_u1-pad9_ net-_u1-pad1_ net-_u11-pad1_ d_nand
* u9  net-_u1-pad10_ net-_u1-pad2_ net-_u11-pad2_ d_nand
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_nand
* u13  net-_u11-pad3_ net-_u13-pad2_ d_inverter
* u15  net-_u13-pad2_ net-_u1-pad12_ d_inverter
* u16  net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ d_or
* u17  net-_u16-pad3_ net-_u17-pad2_ net-_u17-pad3_ d_or
* u19  net-_u17-pad3_ net-_u12-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u18  net-_u10-pad3_ net-_u18-pad2_ net-_u18-pad3_ d_or
* u20  net-_u18-pad3_ net-_u12-pad2_ d_inverter
a1 net-_u1-pad3_ net-_u16-pad1_ u2
a2 net-_u1-pad4_ net-_u16-pad2_ u3
a3 net-_u1-pad5_ net-_u17-pad2_ u4
a4 net-_u1-pad6_ net-_u10-pad1_ u5
a5 net-_u1-pad7_ net-_u10-pad2_ u6
a6 net-_u1-pad8_ net-_u18-pad2_ u7
a7 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a8 net-_u12-pad3_ net-_u1-pad11_ u14
a9 [net-_u1-pad9_ net-_u1-pad1_ ] net-_u11-pad1_ u8
a10 [net-_u1-pad10_ net-_u1-pad2_ ] net-_u11-pad2_ u9
a11 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a12 net-_u11-pad3_ net-_u13-pad2_ u13
a13 net-_u13-pad2_ net-_u1-pad12_ u15
a14 [net-_u16-pad1_ net-_u16-pad2_ ] net-_u16-pad3_ u16
a15 [net-_u16-pad3_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a16 net-_u17-pad3_ net-_u12-pad1_ u19
a17 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a18 [net-_u10-pad3_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a19 net-_u18-pad3_ net-_u12-pad2_ u20
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u12 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u8 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u9 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u16 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74HC58