* e:\ic_811m\ic_811m.cir

.include 811M.sub
x1 net-_r2-pad2_ net-_r1-pad2_ net-_x1-pad3_ gnd ? out net-_x1-pad7_ gnd gnd gnd 811M
r1  in net-_r1-pad2_ 50k
r2  in net-_r2-pad2_ 50k
v2 net-_x1-pad7_ gnd  dc -5
v3 net-_x1-pad3_ gnd  dc 10
* u1  out plot_v1
* u2  in plot_v1
v1  in gnd pulse(0 2.5 1ms 1us 1us 4ms 10ms)
.tran 1e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
