* e:\ic_sn74als679\ic_sn74als679.cir

.include SN74ALS69.sub
x1 net-_u19-pad5_ net-_u19-pad6_ net-_u19-pad7_ net-_u19-pad8_ net-_u20-pad2_ net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ ? ? net-_u22-pad1_ SN74ALS69
* u21  a1 a2 a3 a4 a5 a6 a7 a8 net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ adc_bridge_8
* u19  p0 p1 p2 p3 net-_u19-pad5_ net-_u19-pad6_ net-_u19-pad7_ net-_u19-pad8_ adc_bridge_4
* u20  g net-_u20-pad2_ adc_bridge_1
* u18  a9 a10 a11 a12 net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ adc_bridge_4
v1  a1 gnd pulse(0 5 0.01n 0.01n 0.01n 1m 16m)
v2  a2 gnd pulse(0 5 0.01n 0.01n 0.01n 2m 16m)
v3  a3 gnd pulse(0 5 0.01n 0.01n 0.01n 3m 16m)
v4  a4 gnd pulse(0 5 0.01n 0.01n 0.01n 4m 16m)
v5  a5 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 16m)
v6  a6 gnd pulse(0 5 0.01n 0.01n 0.01n 6m 16m)
v7  a7 gnd pulse(0 5 0.01n 0.01n 0.01n 7m 16m)
v8  a8 gnd pulse(0 5 0.01n 0.01n 0.01n 8m 16m)
v9  a9 gnd pulse(0 5 0.01n 0.01n 0.01n 9m 16m)
v10  a10 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 16m)
v11  a11 gnd pulse(0 5 0.01n 0.01n 0.01n 11m 16m)
v12  a12 gnd pulse(0 5 0.01n 0.01n 0.01n 12m 16m)
v13  p0 gnd pulse(5 0 0.01n 0.01n 0.01n 1m 2m)
v14  p1 gnd pulse(5 0 0.01n 0.01n 0.01n 2m 4m)
v15  p2 gnd pulse(5 0 0.01n 0.01n 0.01n 4m 8m)
v16  p3 gnd pulse(5 0 0.01n 0.01n 0.01n 8m 16m)
v17  g gnd pulse(5 0 0.01n 0.01n 0.01n 16m 32m)
* u22  net-_u22-pad1_ y dac_bridge_1
* u23  y plot_v1
* u1  a1 plot_v1
* u2  a2 plot_v1
* u3  a3 plot_v1
* u4  a4 plot_v1
* u5  a5 plot_v1
* u6  a6 plot_v1
* u7  a7 plot_v1
* u8  a8 plot_v1
* u9  a9 plot_v1
* u10  a10 plot_v1
* u11  a11 plot_v1
* u12  a12 plot_v1
* u13  p0 plot_v1
* u14  p1 plot_v1
* u15  p2 plot_v1
* u16  p3 plot_v1
* u17  g plot_v1
a1 [a1 a2 a3 a4 a5 a6 a7 a8 ] [net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ ] u21
a2 [p0 p1 p2 p3 ] [net-_u19-pad5_ net-_u19-pad6_ net-_u19-pad7_ net-_u19-pad8_ ] u19
a3 [g ] [net-_u20-pad2_ ] u20
a4 [a9 a10 a11 a12 ] [net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ ] u18
a5 [net-_u22-pad1_ ] [y ] u22
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 32e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth=3
plot v(y)
plot v(a1) v(a2)+10 v(a3)+20 v(a4)+30 v(a5)+40 v(a6)+50 v(a7)+60 v(a8)+70 v(a9)+80 v(a10)+90 v(a11)+100 v(a12)+110 v(p0)+120 v(p1)+130 v(p2)+140 v(p3)+150 v(g)+160
.endc
.end
